US06051712
Acylation of tert-butyl (3RS,4RS)-4-[4-(3-hydroxy-propenyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate with benzoyl chloride analogously to the procedure described in Example 22(k) yielded tert-butyl (3RS,4RS)-4-[4-(3-benzoyloxy-propenyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless resin; MS: 578 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(3-hydroxy-propenyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | OCC=CC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C30H35NO4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | tert-butyl (3RS,4RS)-4-[4-(3-benzoyloxy-propenyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)(=O)OCC=CC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C37H39NO5
